US03994974
In 20 ml. of anhydrous pyridine there was dissolved 2 g. of 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)-aminomethyl]benzyl alcohol (prepared in the aforesaid Reference Example 7-a) and the solution was cooled to temperatures from -20° to -30° C. A solution of 2.28 g. of benzyloxyacetyl chloride in 5 ml. of toluene was added dropwise to the solution thus cooled and while stirring the mixture, the temperature of the mixture was elevated slowly to room temperature. After stirring the mixture overnight, the solvent was distilled off under reduced pressure and the residue was mixed with 50 ml. of water. After washing the benzene solution thus obtained with water, benzene was distilled off from the reaction mixture under reduced pressure to provide a red oily material. The product was dissolved in 50 ml. of ethanol and after adding to the solution 5 ml. of water and 10 ml. of 4N sodium hydroxide solution, the resultant mixture was stirred for two hours. After adjusting the pH of the reaction mixture to 3 by adding 1N hydrochloric acid, an excessive amount of sodium carbonate was added thereto. Then, ethanol was distilled off under reduced pressure and the residue was extracted with benzene. The extract was washed three times with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to provide a yellow oily material. The product was then subjected to a silica gel column chromatography (65 ml.). The product was eluted using 9 : 1 benzene-acetone mixture and the effluent was concentrated under reduced pressure to provide 3-benzyloxyacetylamino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl]benzyl alcohol.

reactant | 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)-aminomethyl]benzyl alcohol | NC=1C=C(C(CN(C(CC2=CC=C(C=C2)O)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C31H34N2O3
reactant | benzyloxyacetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-benzyloxyacetylamino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-hydroxyphenylethyl)aminomethyl]benzyl alcohol | C(C1=CC=CC=C1)OCC(=O)NC=1C=C(C(CN(C(CC2=CC=C(C=C2)O)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C40H42N2O5
